* C:\Users\alee2\Documents\GitHub\AnalogDigitalComms_HardwareRadio\Mixer\DiffAmp_Mixer.asc
Q1 N001 Input1 N003 0 2N3904
Q2 N002 Input2 N003 0 2N3904
R1 Vcc N001 270
R2 Vcc N002 270
R3 N003 0 270
E1 out 0 N001 N002 1
V1 Input1 0 SINE(1m 0.25 1.1k)
V2 Input2 0 SINE(1m .5 0.525k)
.model NPN NPN
.model PNP PNP
.lib C:\Users\alee2\AppData\Local\LTspiceXVII\lib\cmp\standard.bjt
.include engr2420.sub
.tran 0 1000m 0 100u
.backanno
.end
